US07435827B2
A solution of sodium hydroxide (1.4 g) in a mixture of water (X % v/v)/Ethanol (Y % v/v, 10 volumes per grams of ZLD-Ac form I) (10-15 ml) was added drop-wise to a suspension of Zoledronic acid form I (5.0 g) in a mixture of water (X % v/v)/Ethanol (Y % v/v, 10 volumes per grams of ZLD-Ac) (53-85 ml) at reflux temperature. The reaction mixture was heated at reflux temperature for additional 16 hours. Then the reaction mixture was cooled to room temperature. Further cooling was performed using an ice-bath. The precipitate was then filtered, washed and dried in a vacuum oven at 50° C. for 24 hours to give Zoledronate disodium crystal form V. Purity by HPLC 99.9%.

reactant | sodium hydroxide | 1.4 g | [OH-].[Na+]
reactant | Ethanol | 10-15 ml | C(C)O | C2H6O
reactant | Zoledronic acid | C1=CN(C=N1)CC(O)(P(=O)(O)O)P(=O)(O)O | C5H10N2O7P2
reactant | Ethanol | 53-85 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | Zoledronate disodium | C1=CN(C=N1)CC(O)(P(=O)(O)[O-])P(=O)(O)[O-].O.O.O.O.[Na+].[Na+] | InChI=1S/C5H10N2O7P2.2Na.4H2O/c8-5(15(9,10)11,16(12,13)14)3-7-2-1-6-4-7;;;;;;/h1-2,4,8H,3H2,(H2,9,10,11)(H2,12,13,14);;;4*1H2/q;2*+1;;;;/p-2
